US07001914B2
(B) (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-3-carboxamide)
Prepared by a method analogous to that described for the preparation of Intermediate 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 5-bromothiophene-3-carboxylic acid. The compound was purified by reverse phase HPLC on a Waters Bondapak® C18 column using a gradient of acetonitrile and 0.1% aqueous trifluoroacetic acid as the eluent. The product-containing fractions were evaporated, the residues dissolved in methanol, excess hydrogen chloride solution (4M in 1,4-dioxane) was added and the solution was evaporated. After drying under vacuum, the hydrochloride salt of the title compound was obtained as a colourless solid; MS (ES+) 315, 317 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 5-bromothiophene-3-carboxylic acid | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-3-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C2=CSC(=C2)Br | C12H15BrN2OS
